US07618990B2
In the same manner as described in step 4 of Example 78, using 2-bromo-1-(4-chloro-3-fluoro-phenyl)-ethanone (2.7 g, 10.7 mmol), prepared in the previous step, and potassium isothiocyanate (1.25 g, 12.8 mmol) in ethanol (150 mL) the crude product was collected by suction filtration to give 1-(4-chloro-3-fluoro-phenyl)-2-thiocyanato-ethanone (2.47 g, 100%), which was used in the next step without further purification. MS (ES) m/z 230[M+H+].

reactant | 2-bromo-1-(4-chloro-3-fluoro-phenyl)-ethanone | 10.7 mmol, 2.7 g | BrCC(=O)C1=CC(=C(C=C1)Cl)F | C8H5BrClFO
reactant | potassium isothiocyanate | 12.8 mmol, 1.25 g | [N-]=C=S.[K+]
solvent | ethanol | 150 mL | C(C)O | C2H6O
product | 1-(4-chloro-3-fluoro-phenyl)-2-thiocyanato-ethanone | 2.47 g, 100% | ClC1=C(C=C(C=C1)C(CSC#N)=O)F | C9H5ClFNOS
